US06175015B1
1. 1,2,3,4-tetrahydrocarbazole-6-carboxylic acid
A mixture of 4-hydrazinobenzoic acid (5.0 g, 32.9 mmol) and cyclohexanone (3.3 g, 33 mmol) in 30 mL of acetic acid was heated under reflux for 4 hours, then cooled, diluted with water and acidified with HCl. The resultant solid was collected by filtration, washed with water and dried to give 3.6 g of the title compound as a crystalline solid.

reactant | 4-hydrazinobenzoic acid | 32.9 mmol, 5.0 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | cyclohexanone | 33 mmol, 3.3 g | C1(CCCCC1)=O | C6H10O
reactant | HCl | Cl | ClH
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 1,2,3,4-tetrahydrocarbazole-6-carboxylic acid | 3.6 g | C1CCCC=2C3=CC(=CC=C3NC12)C(=O)O | C13H13NO2
